US04841045
Methyl 3-Benzyl-1.2,3.3a.4.5-hexahydro-4-[2.2-dimethyl-3-(p-toluenesulfonyloxy)propyl]-7H-pyrrolo(2,3-d)carbazole-6-carboxylate
To a solution of 669 mg (1.11 mmol) of methyl 3-benzyl-1,2,3,3a,4,5-hexahydro-4-[2,2-dimethyl-3-(t-butyldimethylsilyloxy)propyl]-7H-pyrrolo(2,3-d)carbazole-6-carboxylate in 60 mL of dry CH2Cl2 containing 0.777 mL (3.3 eq; 4.44 mmol) of diisopropyl ethylamine was added portion wise, over 1 h, 1.315 g (3 eq; 4.03 mmol) of p-toluenesulfonic anhydride. When the addition was completed, 16.4 mg (0.1 eq; 0.134 mmol) of 4-dimethylaminopyridine was added all at once and the reaction mixture stirred for 3 h at 20° C.; after this time, 0.777 mL of diethylamine was added, followed by 1.315 g of p-toluenesulfonic anhydride, added portion-wise over 15-20 min. and the whole was stirred for 24 h. The solvent was removed under vacuum and the residue purified by column chromatography over silica gel (120 g). Elution with CH2Cl2, followed by CH2Cl 2 /ethyl ether 4:1, afforded 580 mg (72%) of the title compound. TLC: (Silica) Rf 0.52 (CH2Cl2 /ethyl ether, 9:1), detection: CAS (blue with yellow center, then orange).

reactant | methyl 3-benzyl-1,2,3,3a,4,5-hexahydro-4-[2,2-dimethyl-3-(t-butyldimethylsilyloxy)propyl]-7H-pyrrolo(2,3-d)carbazole-6-carboxylate | 1.11 mmol, 669 mg | C(C1=CC=CC=C1)N1CCC23C1C(CC(=C3NC=3C=CC=CC23)C(=O)OC)CC(CO[Si](C)(C)C(C)(C)C)(C)C | C34H48N2O3Si
reactant | CH2Cl2 | 4.44 mmol, 60 mL, 3.3 eq | C(Cl)Cl | CH2Cl2
reactant | diisopropyl ethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | p-toluenesulfonic anhydride | 4.03 mmol, 1.315 g, 3 eq | C1(=CC=C(C=C1)S(=O)(=O)OS(=O)(=O)C1=CC=C(C=C1)C)C | C14H14O5S2
reactant | diethylamine | 0.777 mL | C(C)NCC | C4H11N
reactant | p-toluenesulfonic anhydride | 1.315 g | C1(=CC=C(C=C1)S(=O)(=O)OS(=O)(=O)C1=CC=C(C=C1)C)C | C14H14O5S2
catalyst | 4-dimethylaminopyridine | 0.134 mmol, 16.4 mg, 0.1 eq | CN(C1=CC=NC=C1)C | C7H10N2
product | Methyl 3-Benzyl-1.2,3.3a.4.5-hexahydro-4-[2.2-dimethyl-3-(p-toluenesulfonyloxy)propyl]-7H-pyrrolo(2,3-d)carbazole-6-carboxylate | 580 mg, 72% | C(C1=CC=CC=C1)N1CCC23C1C(CC(=C3NC=3C=CC=CC23)C(=O)OC)CC(COS(=O)(=O)C2=CC=C(C=C2)C)(C)C | C35H40N2O5S
